US07268230B2
6-Benzyloxy-4-(4-fluoroindol-5-yloxy)-7-methoxyquinazoline (0.75 g, 1.8 mmol), ammonium formate (1.14 g, 18 mmol) and 10% palladium on carbon (115 mg) in DMF (8 ml) containing water (1.5 ml) was stirred at ambient temperature for 2.5 hours. The mixture was filtered over diatomaceous earth and the filtrate was evaporated. The residue was triturated under diethyl ether, filtered, washed with water, followed by diethyl ether and dried overnight over P2O5 to give 4-(4-fluoroindol-5-yloxy)-6-hydroxy-7-methoxyquinazoline (0.471 g, 80%).

reactant | 6-Benzyloxy-4-(4-fluoroindol-5-yloxy)-7-methoxyquinazoline | 1.8 mmol, 0.75 g | C(C1=CC=CC=C1)OC=1C=C2C(=NC=NC2=CC1OC)OC=1C(=C2C=CNC2=CC1)F | C24H18FN3O3
reactant | ammonium formate | 18 mmol, 1.14 g | C(=O)[O-].[NH4+]
reactant | water | 1.5 ml | O | H2O
catalyst | palladium on carbon | 115 mg | [Pd] | Pd
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 4-(4-fluoroindol-5-yloxy)-6-hydroxy-7-methoxyquinazoline | 0.471 g, 80% | FC1=C2C=CNC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)O)OC | C17H12FN3O3
